US07816401B2
(4) Synthesis of (2S,3S,4E,6S,7R,10R)-7-hydroxy-3,7-dimethyl-2-[(1E)-1-methylbuta-1,3-dien-1-yl]-12-oxo-10-[(triethylsilyl)oxy]oxacyclododec-4-en-6-yl acetate (Q13)
Triethylamine (260 μl, 1.80 mmol), 4-dimethylaminopyridine (4.26 mg, 0.349 mmol) and chlorotriethylsilane (48 μl, 0.286 mmol) were added to an anhydrous dichloromethane (1.5 ml) solution of (2S,3S,4E,6S,7R,10R)-7,10-dihydroxy-3,7-dimethyl-2-[(1E)-1-methylbuta-1,3-dien-1-yl]-12-oxooxacyclododec-4-en-6-yl acetate (30.0 mg, 0.082 mmol) at room temperature and the reaction solution was stirred at the same temperature for five hours. The reaction solution was diluted with ethyl acetate and washed with a saturated sodium hydrogen carbonate aqueous solution, distilled water and brine. After the organic layer was dried over anhydrous sodium sulfate and the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Kanto, commercial name Silica Gel 60N, 40-100 μm; heptane:ethyl acetate=1:2) to obtain the title compound (33 mg) as a white solid.

reactant | Triethylamine | 1.80 mmol, 260 μl | C(C)N(CC)CC | C6H15N
reactant | chlorotriethylsilane | 0.286 mmol, 48 μl | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
reactant | (2S,3S,4E,6S,7R,10R)-7,10-dihydroxy-3,7-dimethyl-2-[(1E)-1-methylbuta-1,3-dien-1-yl]-12-oxooxacyclododec-4-en-6-yl acetate | 0.082 mmol, 30.0 mg | C(C)(=O)O[C@H]1/C=C/[C@@H]([C@H](OC(C[C@@H](CC[C@@]1(C)O)O)=O)\C(=C\C=C)\C)C | C20H30O6
catalyst | 4-dimethylaminopyridine | 0.349 mmol, 4.26 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,3S,4E,6S,7R,10R)-7-hydroxy-3,7-dimethyl-2-[(1E)-1-methylbuta-1,3-dien-1-yl]-12-oxo-10-[(triethylsilyl)oxy]oxacyclododec-4-en-6-yl acetate | 33 mg | C(C)(=O)O[C@H]1/C=C/[C@@H]([C@H](OC(C[C@@H](CC[C@@]1(C)O)O[Si](CC)(CC)CC)=O)\C(=C\C=C)\C)C | C26H44O6Si
